US06638929B2
In a round bottom flask containing 10 mL of toluene is added 3-amino-6-benzyloxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester (3.0 g, 7.9 mmol) and dimethylformamide dimethyl acetal (5.4 mL, 31.6 mmol) under a positive nitrogen flow. The mixture is stirred at 120° C. for 1.5 hour, then cooled to room temperature. The volatiles are removed under reduced pressure and the resulting residue dried in vacuo for 15 h to yield 3.0 g of 6-benzyloxy-3-(dimethylamino-methyleneamino)-7-methoxy-naphthalene-2-carboxylic acid tert-butyl ester as a dark oil.

reactant | 3-amino-6-benzyloxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester | 7.9 mmol, 3.0 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)OCC1=CC=CC=C1)OC | C23H25NO4
reactant | dimethylformamide dimethyl acetal | 31.6 mmol, 5.4 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-benzyloxy-3-(dimethylamino-methyleneamino)-7-methoxy-naphthalene-2-carboxylic acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N=CN(C)C)OCC1=CC=CC=C1)OC | C26H30N2O4
